US03996209
13.5 liters of 95% ethanol, 900 gms. of 2-chloroacetamido, 5-chlorobenzophenone and 925 gms. of hexamethylenetetramine were charged to a stirred pressure vessel. The medium was saturated with ammonia gas at ch. 15# gauge of pressure with stirring. The ammonia supply was turned off. The resultant medium was heated for three hours at 78°-80° C. After cooling and venting the ammonia, the batch was removed from the pressure vessel to a vacuum still. The batch was concentrated to dryness in vacuo from a steam bath. The the residue was added 21/2 liters of toluene and 5.0 g. of p-toluenesulfonic acid and the resultant mixture was heated to reflux. Ca. 5 mls. of water formed, removed by azeotropism. After cooling to 70° C. three liters of water at 70° C. were added. The crystal slurry so obtained was cooled for one hour at +10° to +15° C. After filtering, washing the product with 2 × 250 ml. of tap water and once with 250 ml. of cold (+10° C.) toluene and drying to constant weight, 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one was obtained.

reactant | 5-chlorobenzophenone | ClC=1C=CC=C(C(=O)C2=CC=CC=C2)C1 | C13H9ClO
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonia | N | H3N
reactant | ethanol | 13.5 liters | C(C)O | C2H6O
product | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11ClN2O
